US09278950B2
Step 5. Benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-formylquinolin-3-yl)carbamate
Benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-vinylquinolin-3-yl)carbamate (520 mg, 0.84 mmol) was mixed with THF (20 mL), 0.25 M osmium tetroxide in water (1.0 mL, 0.3 mmol) and sodium metaperiodate (840 mg, 3.9 mmol) in water (2 mL). The reaction mixture was stirred at 70° C. for 2 h, then allowed to cool. After cooling, the mixture was filtered through a diatomaceous earth plug, which was rinsed with fresh THF. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column eluting with EtOAc in hexanes (0-100%) to give the sub-title compound (320 mg, 61%) as yellow powder. LCMS calc. for C34H37N6O6 (M+H)+: m/z=625.2. Found: 625.1.

reactant | Benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-vinylquinolin-3-yl)carbamate | 0.84 mmol, 520 mg | C(C)(C)(C)OC(=O)N[C@@H]1CN(CCC1)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=C | C35H38N6O5
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | sodium metaperiodate | 3.9 mmol, 840 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 2 mL | O | H2O
catalyst | osmium tetroxide | 0.25 M | [Os](=O)(=O)(=O)=O
solvent | water | 0.3 mmol, 1.0 mL | O | H2O
product | Benzyl (2-{[(4-{(3S)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-formylquinolin-3-yl)carbamate | 320 mg, 61% | C(C)(C)(C)OC(=O)N[C@@H]1CN(CCC1)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=O | C34H36N6O6
